US04540703
To methylene chloride (50 ml) are added 4-(1-methyl-1,2,3,4-tetrazol-5yl)thio-butyric acid (45 mmole) and N-methylmorpholine (50 mmole). To the mixture is added dropwise with stirring methyl chloroformate (50 mmole) with keeping the inner temperature at 10°-20° C. by ice-cooling, and thereafter, the mixture is stirred at room temperature for 30 minutes. To the mixture is added 2-methoxycyclohexylamine (54 mmole), and the mixture is stirred at the same temperature for 4 hours. After the reaction, water is added to the reaction mixture. The organic layer is separated and washed with dilute aqueous sodium hydroxide solution, diluted hydrochloric acid and water in order, and dried over sodium sulfate. Inorganic materials are filtered off, and the mother liquor is concentrated. The resulting residue is subjected to column chromatograpy (Wakogel C-200, eluting solvent, benzene:chloroform=4:1, V/V) to isolate N-(4-methoxycyclohexyl)-4-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-butyramide (yield: 43%), colorless liquid, nD11 =1.5263.

reactant | 4-(1-methyl-1,2,3,4-tetrazol-5yl)thio-butyric acid | 45 mmole | CN1N=NN=C1CCCC(=S)O | C6H10N4OS
reactant | N-methylmorpholine | 50 mmole | CN1CCOCC1 | C5H11NO
reactant | methyl chloroformate | 50 mmole | ClC(=O)OC | C2H3ClO2
reactant | 2-methoxycyclohexylamine | 54 mmole | COC1C(CCCC1)N | C7H15NO
solvent | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(4-methoxycyclohexyl)-4-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-butyramide | yield: 43% | COC1CCC(CC1)NC(CCCC1=NN=NN1C)=S | C13H23N5OS
